US08420670B2
5.2. N*4*-(3,4-Dichlorobenzyl)-2-methylquinoline-4,8-diamine
(8-Bromo-2-methylquinolin-4-yl)-(3,4-dichlorobenzyl)-amine (500 mg, 1.26 mmole), copper(II)sulphate pentahydrate (316 mg, 1.27 mmole) and ammonia (20% in water/ethanol 1:1, 20 mL) were stirred in a microwave oven at 150° C. for 5 hrs. The reaction mixture was dissolved in water and extracted with dichloromethane. The resulting organic phases were dried and purified using silica gel chromatography, eluting with dichloromethane:water 99:1. Precipitation in isopropyl ether gave a brownish solid (220 mg, 52%).

reactant | (8-Bromo-2-methylquinolin-4-yl)-(3,4-dichlorobenzyl)-amine | 1.26 mmole, 500 mg | BrC=1C=CC=C2C(=CC(=NC12)C)NCC1=CC(=C(C=C1)Cl)Cl | C17H13BrCl2N2
reactant | ammonia | 20 mL | N | H3N
solvent | water | O | H2O
catalyst | copper(II)sulphate pentahydrate | 1.27 mmole, 316 mg | O.O.O.O.O.S(=O)(=O)([O-])[O-].[Cu+2]
product | N*4*-(3,4-Dichlorobenzyl)-2-methylquinoline-4,8-diamine | 220 mg, 52% | ClC=1C=C(CNC2=CC(=NC3=C(C=CC=C23)N)C)C=CC1Cl | C17H15Cl2N3
